US06255494B1
Preparation of (RS) 2-(4-chlorophenoxymethyl)-4-[(piperidin-3-yl)methoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole
The title product is prepared from (RS) 2-(4-chlorophenoxymethyl)-4-[[1-(t-butoxycarbonyl)piperidin-3-yl]methoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole using a standard trifluoroacetic acid deprotection protocol.

reactant | (RS) 2-(4-chlorophenoxymethyl)-4-[[1-(t-butoxycarbonyl)piperidin-3-yl]methoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3OCC3CN(CCC3)C(=O)OC(C)(C)C)C=C1 | C38H53ClN4O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | (RS) 2-(4-chlorophenoxymethyl)-4-[(piperidin-3-yl)methoxy]-1-[3-[1-(t-butoxycarbonyl)piperidin-3-yl]propyl]-benzimidazole | ClC1=CC=C(OCC2=NC3=C(N2CCCC2CN(CCC2)C(=O)OC(C)(C)C)C=CC=C3OCC3CNCCC3)C=C1 | C33H45ClN4O4
